US06800651B2
Using the method of Example 342 using N-(3-bromophenyl)pyridin-3-ylmethylamine and guaiacol (Aldrich) and purifying via preparative HPLC eluting with 1:1 DCM/ethyl acetate gave N-(3-(2-Methoxyphenoxy)phenyl) pyrid-3-ylmethylamine. Anal Calcd for C19H18N2O2.0.5H2O: C, 72.36; H, 6.07; N, 8.88. Found: C, 72.43; H, 5.80; N, 8.96. MS found 307.2 [M+H]+

reactant | N-(3-bromophenyl)pyridin-3-ylmethylamine | BrC=1C=C(C=CC1)NCC=1C=NC=CC1 | C12H11BrN2
reactant | guaiacol | C=1(C(O)=CC=CC1)OC | C7H8O2
product | N-(3-(2-Methoxyphenoxy)phenyl) pyrid-3-ylmethylamine | COC1=C(OC=2C=C(C=CC2)NCC=2C=NC=CC2)C=CC=C1 | C19H18N2O2
